US04178303
(c) 2-Acetoxyethyl 2-Cyano-3,3-Diphenylacrylate
A three-neck round bottom flask fitted with a mechanical stirrer, a thermometer and a Dean-Stark trap fitted with a reflux condenser was charged with 200 ml. of toluene, 182 g. (1 mole) of benzophenone, 205 g. (1.2 moles) of 2-acetoxyethyl 2-cyanoacetate, 40 ml. of glacial acetic acid, 16 g. of ammonium acetate. The contents were heated to reflux (110° C.) for 24 hours while the theoretical amount of water by-product was removed by azeotropic distillation. Upon removal of the solvent, as well as unreacted starting material by vacuum distillation, a yield of 200 g. (60%) of the desired product was obtained.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | benzophenone | 1 mole | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | 2-acetoxyethyl 2-cyanoacetate | 1.2 moles | C(#N)CC(=O)OCCOC(C)=O | C7H9NO4
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Acetoxyethyl 2-Cyano-3,3-Diphenylacrylate | 60% | C(#N)C(C(=O)OCCOC(C)=O)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17NO4
